US07544685B2
2a, 2-((+)-(S)-3-{2-[4-(1H-Indol-5-yl)-piperazin-1-yl]-ethyl}-2,3-dihydro-1H-indol-1-yl)-acetamide dihydrochloride
To a clear solution of 2-chloroacetamide (17.7 g, 0.19 mol) in N-methylpyrrolidin-2-one (500 mL) was slowly added a solution of 5-{4-[(S)-2-(2,3-dihydro-1H-indol-3-yl)-ethyl]-piperazin-1-yl}-1H-indole (52.6 g, 0.15 mol) in butanone (600 mL). Potassium iodide (29.0 g, 0.17 mol) and potassium carbonate (31.4 g, 0.15 mol) was added and the resulting mixture was boiled under reflux for 1 h, filtered and poured onto a mixture of ice and brine. The aqueous phase was extracted with ethyl acetate, and the combined organic phase was washed with brine, dried (MgSO4), filtered and concentrated in vacuo. The residue was purified by flash chromatography (ethyl acetate/ethanol/triethylamine 70:5:5) to give crude title compound (30.6 g). This was precipitated from methanol by addition of hydrochloric acid in diethyl ether until pH was approximately 3. The compound was collected by filtration as a powder (7.7 g). Assignment of the optical rotation was done in dimethyl sulfoxide.

reactant | 2-chloroacetamide | 0.19 mol, 17.7 g | ClCC(=O)N | C2H4ClNO
reactant | 5-{4-[(S)-2-(2,3-dihydro-1H-indol-3-yl)-ethyl]-piperazin-1-yl}-1H-indole | 0.15 mol, 52.6 g | N1C[C@H](C2=CC=CC=C12)CCN1CCN(CC1)C=1C=C2C=CNC2=CC1 | C22H26N4
reactant | Potassium iodide | 0.17 mol, 29.0 g | [I-].[K+]
reactant | potassium carbonate | 0.15 mol, 31.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | N-methylpyrrolidin-2-one | 500 mL | CN1C(CCC1)=O | C5H9NO
solvent | butanone | 600 mL | CC(CC)=O | C4H8O
product | 2-((+)-(S)-3-{2-[4-(1H-Indol-5-yl)-piperazin-1-yl]-ethyl}-2,3-dihydro-1H-indol-1-yl)-acetamide dihydrochloride | 30.6 g | Cl.Cl.N1C=CC2=CC(=CC=C12)N1CCN(CC1)CC[C@@H]1CN(C2=CC=CC=C12)CC(=O)N | InChI=1S/C24H29N5O.2ClH/c25-24(30)17-29-16-19(21-3-1-2-4-23(21)29)8-10-27-11-13-28(14-12-27)20-5-6-22-18(15-20)7-9-26-22;;/h1-7,9,15,19,26H,8,10-14,16-17H2,(H2,25,30);2*1H/t19-;;/m1../s1
